US04173640
The 2-(3-hydroxy-1,2,3,4-tetrahydronaphthalenyl)-pyridine thus obtained is quaternized with dimethyl sulfate on the steam bath neat. After several hours, the salt is dissolved in HOAc and reduced over a mixture of PtO2 and Pd/C to yield 2-(3-hydroxy-1,2,3,4-tetrahydronaphthalenyl)-1-methyl piperidine.

reactant | 2-(3-hydroxy-1,2,3,4-tetrahydronaphthalenyl)-pyridine | OC1CC(C2=CC=CC=C2C1)C1=NC=CC=C1 | C15H15NO
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | HOAc | CC(=O)O | C2H4O2
catalyst | PtO2 | O=[Pt]=O
catalyst | Pd/C | [Pd] | Pd
product | 2-(3-hydroxy-1,2,3,4-tetrahydronaphthalenyl)-1-methyl piperidine | OC1CC(C2=CC=CC=C2C1)C1N(CCCC1)C | C16H23NO
